US06858651B2
A solution of 2.63 g (10 mmol) of cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester in 16 ml CH2Cl2 was treated with a solution 0.24 g (2 mmol) of KBr and 0.28 g (3.33 mmol) of NaHCO3 in 5 ml of water. The suspension was cooled (0-5° C.) and 8 mg (0.05 mmol) of TEMPO and then 5.7 ml (12.5 mmol) of NaOCl (13%, 2.18 M in water) were added during 20 min. After 1 h at this temperature, again 8 mg (0.05 mmol) of TEMPO and then 2.85 ml (6.25 mmol) of NaOCl (13%, 2.18 M in water) were added. After 1 h, 5 ml of 1M sodium thiosulfat solution was added. The aqueous phase was extracted with CH2Cl2(2×), the organic phase was dried (Na2SO4), filtered and evaporated to give 2.57 g (99%) of Methyl-(4-oxo-cyclohexyl)-carbamic acid benzyl ester, MS: 261 (M).

reactant | cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester | 10 mmol, 2.63 g | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@@H](CC1)O)=O | C15H21NO3
reactant | KBr | 2 mmol, 0.24 g | [K+].[Br-]
reactant | NaHCO3 | 3.33 mmol, 0.28 g | C(=O)(O)[O-].[Na+]
reactant | NaOCl | 12.5 mmol, 2.18 M, 5.7 ml | [O-]Cl.[Na+]
reactant | NaOCl | 6.25 mmol, 2.18 M, 2.85 ml | [O-]Cl.[Na+]
reactant | sodium thiosulfat | 1M, 5 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
catalyst | TEMPO | 0.05 mmol, 8 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
catalyst | TEMPO | 0.05 mmol, 8 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | Methyl-(4-oxo-cyclohexyl)-carbamic acid benzyl ester | 2.57 g, 99% | C(C1=CC=CC=C1)OC(N(C1CCC(CC1)=O)C)=O | C15H19NO3
